US08865712B2
e) 1-Azido-2-(6-bromo-3-fluoro-pyridin-2-yl)-propan-2-ol
A mixture of methanesulfonic acid 2-(6-bromo-3-fluoro-pyridin-2-yl)-2-hydroxy-propyl ester (5 g, 15.24 mmol), ammonium chloride (4.08 g, 76 mmol) and sodium azide (2.476 g, 38.1 mmol) in ethanol (100 ml) was stirred at 80° C. for 20 hours. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic layer was dried over sodium sulfate, filtered and evaporated. 3.1 g (74% yield). TLC (cyclohexane/ethyl acetate 9:1) Rf=0.35; LCMS RtH5=0.97 min. (ES+ 275, 277); 1H-NMR (360 MHz, CDCl3): 7.51 (dd, 1H), 7.36 (dd, 1H), 5.18 (s broad, 1H, OH), 3.68-3.60 (AB system, 2H), 1.59 (s, 3H, CH3).

reactant | methanesulfonic acid 2-(6-bromo-3-fluoro-pyridin-2-yl)-2-hydroxy-propyl ester | 15.24 mmol, 5 g | BrC1=CC=C(C(=N1)C(COS(=O)(=O)C)(C)O)F | C9H11BrFNO4S
reactant | ammonium chloride | 76 mmol, 4.08 g | [Cl-].[NH4+]
reactant | sodium azide | 38.1 mmol, 2.476 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Azido-2-(6-bromo-3-fluoro-pyridin-2-yl)-propan-2-ol | 74% yield | N(=[N+]=[N-])CC(C)(O)C1=NC(=CC=C1F)Br | C8H8BrFN4O
